US06747023B1
1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[3-methoxy-4-(pyridin-4-yl)benzoyl]piperazine hydrochloride
In the same manner as in Example A-4, a reaction was conducted using 3-methoxy-4-(4-pyridyl)benzoic acid and 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride as starting materials, whereby the title compound was obtained.

reactant | 3-methoxy-4-(4-pyridyl)benzoic acid | COC=1C=C(C(=O)O)C=CC1C1=CC=NC=C1 | C13H11NO3
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
product | 1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[3-methoxy-4-(pyridin-4-yl)benzoyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC(=C(C=C1)C1=CC=NC=C1)OC)=O | InChI=1S/C27H24ClN3O4S.ClH/c1-35-26-18-22(4-7-25(26)19-8-10-29-11-9-19)27(32)30-12-14-31(15-13-30)36(33,34)24-6-3-20-16-23(28)5-2-21(20)17-24;/h2-11,16-18H,12-15H2,1H3;1H
